US05059597
c) 8-Benzyl-4-methyl-2,8-diazabicyclo[4.3.0]nonane
13.0 g of crude 5-methyl-hexahydropyridine-2,3-dicarboxylic acid N-benzylimide are added in the form of a solution in 50 ml of absolute tetrahydrofuran to 4.6 g (0.12 mol) of lithium aluminum hydride in 100 ml of absolute tetrahydrofuran, already present in the vessel. Then the mixture is boiled for 17 hours under reflux. 4.6 g of water in 14 ml of tetrahydrofuran, 4.6 g of 10% strength sodium hydroxide solution and 13.8 g of water are added dropwise one after the other. The salts are filtered off, the filtrate is concentrated by evaporation and the residue is distilled.

reactant | 5-methyl-hexahydropyridine-2,3-dicarboxylic acid N-benzylimide | 13.0 g | C(C1=CC=CC=C1)N=C(O)C1NCC(CC1C(=O)O)C | C15H20N2O3
reactant | lithium aluminum hydride | 0.12 mol, 4.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 4.6 g | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 13.8 g | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 8-Benzyl-4-methyl-2,8-diazabicyclo[4.3.0]nonane | C(C1=CC=CC=C1)N1CC2CC(CNC2C1)C | C15H22N2
